US07795267B2
α,α,1,4-Tetrakis(phenylmethyl)-2-piperazinemethanol
Ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate (8.2 g, 24 mmol) was dissolved in tetrahydrofuran (100 mL) under argon atmosphere. With ice cooling, a 1.0 M solution of benzyl magnesium bromide in tetrahydrofuran (100 mL, 0.10 mol) was added dropwise thereto over 30 minutes. After stirring at room temperature for 14 hours, an aqueous saturated ammonium chloride solution (300 mL) was added dropwise thereto with ice cooling, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane to hexane:ethyl acetate=5:1) to obtain the title compound (5.1 g, yield 44%).

reactant | Ethyl 1,4-bis(phenylmethyl)-2-piperazine carboxylate | 24 mmol, 8.2 g | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
reactant | benzyl magnesium bromide | C(C1=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.10 mol, 100 mL | O1CCCC1 | C4H8O
product | α,α,1,4-Tetrakis(phenylmethyl)-2-piperazinemethanol | 5.1 g, yield 44% | C1(=CC=CC=C1)CC(O)(C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C33H36N2O
